Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Been without meds for so long"
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Per Dr. ___ from ___
"Patient is a ___ yo male with a PMH significant for heart 
murmur,
PPHx significant for paranoid schizophrenia, numerous past
psychiatric hospitalizations, and 1 reported suicide attempts,
who self presented to the ___ ___ due to full body pain and SI
with plan to jump in front of the rail. 

Patient notes that he feels like hurting himself and other
people. He voices SI with plan to step in front of the ___ rail,
which he states he has done in the past as suicide attempt years
ago."I dont know exactly when the started. All I know is I want
to kill myself. My method to kill myself is to electrify myself.
600 bolts. You want me to do it? I'll do it." When asked what
stopped him, patient becomes upset. Patient does not know his
reasons to live, but states he had the "common sense to come
here" so that should count for something. He endorses low mood,
insomnia, low energy, poor concentration, and hopelessness.
Patient voices that he has been trying to get help, and has not
been hospitalized for years now. When asked about HI, patient
makes vague comment and refuses to elaborate further. Denies 
AVH,
but endorses paranoia. "People are out to get me. It's not safe
to begin with." Pt was unwilling to engage further with 
interview
following this."

On admission to inpatient psychiatry, patient was noted to be
disheveled, malodorous, and disorganized in terms of his
appearance (wearing hospital gown in such a fashion his private
areas were exposed) as well as his thinking (tangential at
times). In addition, his gait appeared to be slightly unsteady 
at
times but patient did not appear to lose balance. Reports he has
not been sleeping well and that his energy level is low stating
he feels "weak." He feels as though he "should be eating more"
and notes he has been losing weight. He rates his concentration
as "fine" and completed DOWB w/o errors. Although he denies
feeling anxious or depressed, he reports feeling "physically and
emotionally worn down" and cites being "rejected" from services
as a precipitant. Reports he had attempted to obtain a jacket,
coat, and pants from ___ but was denied for reasons that
are unclear to this interviewer.

Currently, he describes his mood as "hopeful" (hopes medication
will "stabilize" him) and he denies experiencing SI (feels
"safe") or HI as well as AVH or paranoia. Of note, he did not
appear to be responding to internal stimuli. Although he is
"hopeful" regarding treatment, patient declined signing CV as he
wished to speak to primary team to get an estimate of how long
they anticipate he will be inpatient before he signs a CV.
Consequently, he is on a 12b for the time being.

-Dr. ___
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
All histories as per ___ SW Initial Note
(___), ___ Discharge Summary (___), reviewed
and updated with patient:
- Past diagnoses: schizoaffective disorder
- Hospitalizations: "it has been a while." Inpatient admissions
at ___ in ___, ___ in ___ with auditory
hallucinations and ideas of reference, possibly at ___ but patient denied that. Crisis stabilization unit in
___ on the ___ floor.
- Psychiatrist: Denies - previously saw Dr. ___ -
___ in ___ (no longer working number)
- Therapist: Denies - Previously saw ___ at ___ - ___ 
- Self-injury/Suicide attempts: voices previous SA via stepping
on the ___ rail 
- Harm to others: Denies
- Trauma: history of being teased at school, verbal abuse by
father
Access to weapons: Denies

PAST MEDICAL HISTORY:
- Heart murmur
- Denies head trauma and seizures
- NKDA

 
Social History:
SOCIAL HISTORY:
- B/R: ___, ___; recently returned to ___ after living 
in
___, for the past ___. Pt indicates that he returned
to ___ d/t frustration around access to psychiatric care in ___.
- Family: Has five older sisters. ___ separated in ___,
divorced in ___. 
- Relationship status: single
- Primary supports: limited
- Housing: homeless, was kicked out of ___ recently; per
previous SW, patient is familiar with ___ shelters from
previous engagement and acknowledges availability of housing CMs
at shelters.
- Education: completed high school
- Employment/income: "other people are dipping into those
checks," currently has SSI, unemployed
- Spiritual: Denies
- Access to weapons: Denies

SUBSTANCE ABUSE HISTORY:
- EtOH: Denies, h/o of withdrawal, detox admissions, h/o
seizures) 
- Tobacco: 1 pack (sometimes 2 packs) per day since age ___
- Cannabis: Denies
- Illicits: Denies

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
Alcoholism in ___, sister has paranoid schizophrenia. 
Another
sister died from alcoholic cirrhosis.
 
Physical Exam:
EXAM:
-HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear.
-Cardiovascular: Regular rate and rhythm.
-Pulmonary: No increased work of breathing. Coarse breath sounds
bilaterally.
-Abdominal: Normoactive bowel sounds. Abdomen soft, nontender,
nondistended. No guarding, no rebound tenderness.
-Extremities: UEs warm and well-perfused.  Bilateral ___ edema w/
venostasis changes. Feet w/ thickened skin, poorly healing
abrasions / wounds, ?ulcers, ?eschar
-Skin: No bruising, rashes or lesions noted
Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: pupils 3mm, equal, round, reactive to light
---III, IV, VI: EOM intact
---V: Masseter ___ bilaterally
---VII: nasolabial folds symmetric bilaterally
---VIII: Hearing intact to conversation
---IX, X: Palate elevates symmetrically
---XI:  trapezii ___ symmetric bilaterally
---XII: Tongue protrudes midline
-Motor: Normal bulk and tone bilaterally. Strength ___ in
deltoids, biceps, triceps.
-Sensory: deferred
-DTRs: deferred
___: deferred
-Gait: narrow based, normal initiation, arm swing, possibly
unsteady at times
Absence of resting tremor,
Absence of rigidity or spasticity
Absence of asterixis

Cognition:
-Wakefulness/alertness: Awake and alert
-Attention: DOTW backwards w/ 0 errors
-Orientation: BI, ___ ___
-Executive function: absence of ideomotor apraxia: able to brush
teeth, comb hair
-Memory: immediate memory intact
-Fund of knowledge: deferred
-Calculations: deferred
-Abstraction: deferred
-Visuospatial: deferred
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance/Behavior: disheveled, appears older than stated age,
malodorous, wearing hospital gown but was exposed initially
-Attitude: cooperative, intermittent eye contact
-Mood: "Hopeful"
-Affect: restricted
-Speech: normal rate, normal volume, normal tone variation
-Thought process: mostly goal-directed but tangential at times
-Thought Content:
---Safety: denies SI/HI
---Delusions: No evidence of delusions
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: denies AVH
-Perceptual disturbances: does not appear to be responding to
internal stimuli
-Insight: limited
-Judgment: limited

 
Pertinent Results:
___ 06:20PM   cTropnT-<0.01
___ 06:43AM   CHOLEST-135
___ 06:43AM   %HbA1c-6.0 eAG-126
___ 06:43AM   TRIGLYCER-71 HDL CHOL-51 CHOL/HDL-2.6 
LDL(CALC)-70
___ 06:43AM   TSH-1.___rief Hospital Course 

1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout his admission. He signed a 3-day notice on 
___, which was due on ___ and which he rescinded 
voluntarily on ___. He subsequently signed another 3-day 
notice on ___ which was due and rescinded on ___. He was also 
placed on 15 minute checks status on admission and remained on 
that level of observation throughout while being unit 
restricted. He was discharged on ___. 

2. PSYCHIATRIC:
#Schizoaffective disorder, bipolar type
Upon admission patient was noted to have significantly 
disorganized thought process with prominent verbal tangentiality 
and derailment. Despite endorsing a plan (in the ___ to step on 
the electrified third rail to commit suicide, after admission he 
persistently denied continued SI. He also denied any auditory 
hallucinations. He was deemed not to be in an active psychotic 
episode; rather, he was more likely in partial remission given 
poor adherence to antipsychotic treatment over the last several 
months to years. The treatment team's priority was to stabilize 
his medication regimen and devise a plan for safe discharge that 
would optimize his ability to maintain adherence to medications 
and find a stable living situation.

To this end he was started on risperidone 2mg BID and Cogentin 
1mg PO QHS, which he tolerated without adverse side effects. 
Initially patient was up-titrated to Risperidone 3mg BID which 
he tolerated well. He was restarted on Valproic Acid ___ PO 
BID, and after his episode of angrily threatening staff 
(described below) his evening Valproic Acid was increased to 
1000mg PO. He was given hydroxyzine PRNs for anxiety which he 
utilized sparingly. 

He was noted to be self-dialoging at times, but was largely 
pleasant and cooperative with staff and patients for the first 
week and a half of admission. After rescinding his 3-day notice 
on ___, patient's affect changed to labile, irritable and 
angry, underscored by an increasingly vocal persecutory thought 
content, reporting he felt deceived by the treatment team. He 
was not responsive to treatment team's contention that he was 
still admitted voluntarily. He had multiple episodes of yelling 
at staff, including one episode in which he pointed 
threateningly at staff which required security involvement. He 
responded well to PRN PO olanzapine and Lorazepam, and 
subsequently to PO Risperdal PRNs. There were no episodes of 
frank violence. Patient was escorted to the quiet room and his 
Valproic Acid dose was increased accordingly (as described 
above). His Risperdal was also increased at this time to 4mg PO 
BID. In response to these episodes of irritability and yelling, 
patient was placed on day room restrictions and spent 
significant time in the quiet room. Also in response to these 
episodes of irritability (and which he describes as panic 
attacks), treatment team re-started patient on Propranolol 10mg 
BID, which patient reported symptomatic improvement on. 
Treatment team attempted to reach former prescriber ___ 
___ to confirm the indication of the Propranolol. 
Ultimately, pt was discharged on ___ after rescinding his 
second three-day notice. He was provided with the contact 
information and addresses for ___ for the 
Homeless, should he decide to stay in ___, as well as 
___ Treatment Works ___ Treatment 
___ in ___. His plan upon discharge was to collect 
social security payment at the Social Security Office in ___. 


3. SUBSTANCE USE DISORDERS:
#) Tobacco Use Disorder
___ packs per day since age ___. Given nicotine patches while 
admitted and counseled on tobacco cessation strategies. 

4. MEDICAL
#)L knee pain
  -small L knee joint effusion, no fracture; mild degenerative 
changes on xray
#)Lower Extremity Edema 
  -improved compared to admission. Discoloration c/w possible 
venous stasis.
#)Chest pain
 -resolved. Trops neg x2. ECG unchanged from prior. No 
recurrence during rest of admission.
#)bilateral plantar surface foot wounds
 -several ~1cm diameter dark discolored lesions on plantar
surface, no erythema or weeping noted. Per collateral, had 
required Bactrim DS for infection in the past. Podiatry 
consulted, appreciate their debridement of IPJ. Wound care 
consulted and signed off.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient rarely attended these groups that focused on teaching 
patients various coping skills. Patient was largely pleasant and 
cooperative with staff and patients for first 1.5 weeks of 
admission but did experience a trend toward irritability and 
aggression with increased persecutory thought content and 
several episodes of yelling, including one requiring hospital 
security (as detailed above).

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Spoke with patient's prior pharmacy in ___. He had been 
taking fluoxetine, abilify, gabapentin, though sporadically 
filled prescriptions. Pharmacist was unaware of propranolol 
indication and attempt to reach former prescriber ___ 
___ was unsuccessful. He denies any contact with family 
members. Unable to give the names of close contacts. 

#) INTERVENTIONS
- Medications: risperidone, cogentin, hydroxyzine, olanzapine, 
lorazepam, propranolol
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Social Work worked to try and 
arrange Social Security payments to be mailed to patient at 
hospital, to no avail. Upon discharge patient planned to travel 
to social security office to update the address for SSDI 
payments to be mailed to. 
- Behavioral Interventions (e.g. encouraged DBT skills, etc): 
encouraged participation in coping skills group, though patient 
largely avoided groups
-Guardianships: n/a

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
resuming risperidone, valproic acid and propranolol, and the 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take these medications as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team.  The patient appeared able to 
understand and consented to resume the medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
stated intention to commit suicide by stepping on the third 
rail. His risk level was deemed MODERATE at this time, and was 
downgraded to LOW on ___ in large part because he had been 
consistently compliant with medications and consistently denied 
suicidal ideation/intent/plan throughout his admission to 
Deaconess 4.  

His static factors noted at that time include history of suicide 
attempts, history of chronic mental illness, male gender, 
Caucasian race, age, marital status, chronic pain, and chronic 
medical illness.  

The modifiable risk factors including suicidal ideation with 
intent/plan, psychosis, disorganized and unpredictable behavior, 
medication noncompliance, lack of engagement with outpatient 
treatment, hopelessness, agitation, recklessness, social 
withdrawal, limited social supports, limited coping skills, poor 
reality testing, no established outpatient treatment, insomnia, 
lack of purpose, impulsivity, polarized thinking were also 
addressed at that time through pharmacotherapy for psychotic 
illness and attempts at arranging a safe discharge plan. 

Finally, the patient is being discharged with protective risk 
factors, including future-oriented viewpoint, help-seeking 
nature, future-oriented viewpoint, better  reality testing 
ability, better coping skills, lack of suicidal ideation, 
ability to tolerate rejection. Overall, the patient is not 
currently at an acutely elevated risk of self-harm nor danger to 
others due to acutely decompensated psychiatric illness. 

 
Medications on Admission:
Risperidone 2 mg BID
Propranolol 10 mg TID
Gabapentin 300 mg TID
Divalproex ___ mg BID
(patient reported not taking these for 6 months, though 
prescriptions filled ___.
 
Discharge Medications:
Risperdal 4mg PO BID
Valproic Acid ___ PO qAM, 1000mg qHS
Propranolol 10mg BID 
Cogentin 1mg PO QHS

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizoaffective disorder, bipolar type
 
Discharge Condition:
Mental status: clear and coherent
Level of consciousness: alert and interactive
Activity status: ambulatory - independent

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___